US04020081
C. Preparation of 2-(2-Hydroxyphenyl)-5-dodecylbenzoxazole
A three-neck flask fitted with a thermometer, mechanical stirrer and condenser with Dean-Stark trap was charged with 692.5 g. (2.5 moles) of 2-amino-4-dodecylphenol and 411 g. (3.0 moles) of salicylamide. The mixture was heated with stirring to 220° C. After 6 hours of heating, the collection of water in the Dean-Stark trap ceased. At that point, the reaction mixture was cooled to room temperature and about 3 liters of cyclohexane was added. The mixture was then filtered and the filtrate was stripped of volatiles under reduced pressure. The yield of residue was 741.5 g. (2.0 moles). Infrared and nuclear magnetic resonance (nmr) analyses confirmed the structure of the product as 2-(2-hydroxyphenyl)-5-dodecylbenzoxazole, a dark oil. A gas liquid chromatography (glc) analysis indicated the product was 95+% pure.

reactant | 2-amino-4-dodecylphenol | 2.5 moles | NC1=C(C=CC(=C1)CCCCCCCCCCCC)O | C18H31NO
reactant | salicylamide | 3.0 moles | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
product | 2-(2-Hydroxyphenyl)-5-dodecylbenzoxazole | OC1=C(C=CC=C1)C=1OC2=C(N1)C=C(C=C2)CCCCCCCCCCCC | C25H33NO2
